US07288528B2
(4-Ethylphenyl)(2-methoxyphenyl)methanol 54
1.01 g of o-anisaldehyde are dissolved in THF and cooled to 0° C. 16.29 ml of 4-ethylphenylmagnesium bromide (0.5 M in THF) are added to the mixture. The reaction solution is stirred at room temperature overnight and then poured into 20% NH4Cl solution and extracted with ethyl acetate. 1.92 g of the product are obtained, and this can be employed without further purification. C16H18O2 (242.32) MS (ESI+) 225.15 (M−OH)+

reactant | o-anisaldehyde | 1.01 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | 4-ethylphenylmagnesium bromide | 0.5 M, 16.29 ml | C(C)C1=CC=C(C=C1)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | (4-Ethylphenyl)(2-methoxyphenyl)methanol | 1.92 g | C(C)C1=CC=C(C=C1)C(O)C1=C(C=CC=C1)OC | C16H18O2
